US04661636
(e) 2-chloro-N-[5-(1,1-dimethylethyl)-2-hydroxy-3-methylsulfonylbenzyl]acetamide
13.5 g (0.06 mol) of 4-(1,1-dimethylethyl)-2-methylsulfonylphenol are dissolved in 100 ml of concentrated sulfuric acid. 6.63 g (0.054 mol) of 2-chloro-N-hydroxymethylacetamide are added and the mixture is stirred at room temperature for 10 minutes. It is then poured onto ice-water and the crude product is filtered off with suction and recrystallized from toluene.

reactant | 4-(1,1-dimethylethyl)-2-methylsulfonylphenol | 0.06 mol, 13.5 g | CC(C)(C)C1=CC(=C(C=C1)O)S(=O)(=O)C | C11H16O3S
reactant | 2-chloro-N-hydroxymethylacetamide | 0.054 mol, 6.63 g | ClCC(=O)NCO | C3H6ClNO2
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 2-chloro-N-[5-(1,1-dimethylethyl)-2-hydroxy-3-methylsulfonylbenzyl]acetamide | ClCC(=O)NCC1=C(C(=CC(=C1)C(C)(C)C)S(=O)(=O)C)O | C14H20ClNO4S
